US08895547B2
5-(3-Bromophenyl)-2-ethoxy-5,6,6-trimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide
A suspension of 14.40 g of 2-(3-bromophenyl)-3-hydroxy-3-methylbutane-2-sulfonamide (50%, contaminated with 1-(3-bromophenyl)ethanesulfonamide)) in 100 ml of tetraethoxymethane was admixed with 12 ml of acetic acid and stirred at 100° C. under a strong argon stream for 6 hours. After the removal of the solvent under reduced pressure (bath temperature 70° C.), the viscous residue was dried at 50° C. in a vacuum drying cabinet for 16 hours. The conversion was checked by LCMS and found to be incomplete. Therefore, the oily residue was left to react on the rotary evaporator under reduced pressure (bath temperature 80° C.) for 4 hours. After the addition of 10 ml of acetic acid, the bath temperature was increased to 85° C. and the pressure was adjusted to 150 mbar. Subsequently, the volatile constituents were removed, again under reduced pressure, and the crude product was purified by means of normal phase chromatography using a Flashmaster with an n-heptane/ethyl acetate gradient. The product-containing fractions were combined and concentrated by rotary evaporation. This gave the product (5.97 g) with a molecular weight of 376.3 g/mol (C14H18BrNO4S).

reactant | 2-(3-bromophenyl)-3-hydroxy-3-methylbutane-2-sulfonamide | 14.40 g | BrC=1C=C(C=CC1)C(C)(C(C)(C)O)S(=O)(=O)N | C11H16BrNO3S
reactant | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
reactant | tetraethoxymethane | 100 ml | C(C)OC(OCC)(OCC)OCC | C9H20O4
product | 5-(3-Bromophenyl)-2-ethoxy-5,6,6-trimethyl-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | 5.97 g | BrC=1C=C(C=CC1)C1(S(N=C(OC1(C)C)OCC)(=O)=O)C | C14H18BrNO4S
